Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin / Ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
back pain

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with cerebral palsy, h/o degenerative disk disease with 5 
herniations in ___ now p/w acute low back pain. She states 
that she was in he USOH until yesterday when she was at work at 
___. She was sliding a desk along the floor and developed a 
"jolt" off low back pain with radiation down both legs. She took 
ibuprofen and "walked it off" and it improved. However later at 
work, a client need help sliding up the chair that he was seated 
in up under a desk and Ms. ___ helped. She developed another 
jolt of pain that persisted and would not resolve. She continued 
to have low back pain that was severe and radiated down both 
legs associated with numbness and tingling in the legs. of note, 
the patient also describes numbness sensation in hands which has 
been going on in the past. A friend lifted her into the air and 
carried her for part of the way to a car. She was then able to 
ambulate the rest of the way to the car while leaning on 
friends. She was taken to the ED. 
   In the ED, there was initial concern for possible spinal cord 
involvement. MRI of L-spine showed no spinal canal stenosis. She 
received morphine and dilaudid. She was admitted to hospitalist 
service for further management.
 
Past Medical History:
Cerebral palsy  
Recurrent kidney infections  
Disc rupture ___  
? Ovarian cysts - reports experiencing cysts sporadically
bilateral hip dislocation repaired surgically as an infant 
 
Social History:
___
Family History:
Sister had ovarian cyst and ? cervical cancer 
 
Physical Exam:
VS: Temp: 96.9  BP: 117/70  HR: 84  RR: 20  O2sat: 97 RA Pain 
___  
.  
Gen: uncomfortable, in NAD.  
HEENT: PERRL, EOMI. No scleral icterus. No conjunctival 
injection. Mucous membranes moist. No oral ulcers.  
Neck: Supple, no LAD, no JVP elevation.  
Lungs: CTA bilaterally, no wheezes, rales, rhonchi. Normal 
respiratory effort.  
CV: RRR, no murmurs, rubs, gallops.  
Abdomen: soft, NT, ND, NABS, no HSM.  
Extremities: warm and well perfused, no cyanosis, clubbing, 
edema.  
Neurological: alert and oriented X 3, CN II-XII intact. Muscle 
strength is full UE bilaterally, ___ at least ___ 
bilaterally. Sensation to light touch is intact throughout. 
Reflexes are hyper at knees bilaterally and 3+ bicecps 
bilaterally. Bilateral ___ spasticity.
Skin: No rashes or ulcers.  
Psychiatric: Appropriate.  
 
Pertinent Results:
___ 08:14PM URINE  HOURS-RANDOM
___ 08:14PM URINE  GR HOLD-HOLD
___ 08:14PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:14PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-0.2 PH-5.0 
LEUK-SM
___ 08:14PM URINE  MUCOUS-MANY
___ 08:14PM URINE  ___ BACTERIA-FEW YEAST-NONE 
___ 07:12PM   GLUCOSE-96 UREA N-10 CREAT-0.7 SODIUM-138 
POTASSIUM-3.9 CHLORIDE-107 TOTAL CO2-23 ANION GAP-12
___ 07:12PM   estGFR-Using this
___ 07:12PM   calTIBC-341 VIT B12-225* FOLATE-11.8 
FERRITIN-19 TRF-262
___ 07:12PM   WBC-7.6 RBC-3.88* HGB-12.0 HCT-33.5* MCV-86 
MCH-31.1 MCHC-36.0* RDW-12.9
___ 07:12PM   WBC-7.6 RBC-3.88* HGB-12.0 HCT-33.5* MCV-86 
MCH-31.1 MCHC-36.0* RDW-12.9
___ 07:12PM   NEUTS-74.6* ___ MONOS-3.5 EOS-3.5 
BASOS-0.4
___ 07:12PM   PLT COUNT-___ with cerebral palsy, h/o degenerative disk disease p/w acute 
low back pain, MRI prelim read revealed L4-5 central/left 
paracentral disc protrusion which appeared to touch the exiting 
left L5 nerve root. 

# Low back pain:  L4-L5 disc herniation with possible effect on 
L5 nerve root.  Patient was treated with pain meds overnight and 
on ___ eval was able to ambulate safely with plan for opiod pain 
med taper and home ___.  Patient can f/u with ___ pain service 
or her PCP for further management.
.
# Anemia:  Normocytic, low vitamin B12 level of 225.  Patient 
given vitamin B12 supplements.

  

 
Medications on Admission:
OCPs
 
Discharge Medications:
1. Motrin 600 mg Tablet Sig: One (1) Tablet PO three times a day 
for 3 days: Take for 3 days continuously and then only as needed 
for pain.
Disp:*30 Tablet(s)* Refills:*2*
2. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO every four (4) 
hours as needed for pain: Use only for severe breakthrough pain. 
DO NOT USE IF DRIVING OR OPERATING MACHINERY!.
Disp:*30 Tablet(s)* Refills:*0*
3. Neurontin 300 mg Capsule Sig: Two (2) Capsule PO three times 
a day: Discuss with PCP how long to continue this medication.
Disp:*180 Capsule(s)* Refills:*2*
4. Tylenol ___ mg Tablet Sig: ___ Tablets PO every six (6) hours 
as needed for pain: DO NOT TAKE MORE THAN PRESCRIBED.
Disp:*30 Tablet(s)* Refills:*2*
5. Vitamin B-12 1,000 mcg Tablet Sig: One (1) Tablet PO once a 
day.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
L4-L5 Disc herniation impinging on L5 nerve root with lumbar 
radiculopathy.
Cerebral Palsy
Recurrent Kidney Infections
Prior reported disc disease/herniations per pt
 
Discharge Condition:
Vital Signs ___, able to ambulate
 
Discharge Instructions:
Return to the ED if you are having worsening pain that prevents 
you from walking, high fevers, chills, rigors.
 
Followup Instructions:
___